US05808062
4-Hydroxy-3-[(3-methoxyphenyl)thio]-6-phenyl-2H-pyran-2-one:
The title compound was prepared by Method A using 1-phenyl-1-(trimethylsilyloxy)ethylene (1.95 g, 10.14 mmol) and diethyl ester of [(3-methoxyphenyl)thio]propanedioic acid (1.51 g, 5.07 mmol). m.p. 130°-131° C. 1H NMR (400 MHz, DMSO-d6) δ 3.69 (s, 3H), 6.69 (dd, 1H), 6.72 (dd, 1H), 6.89 (s, 1H), 7.2 (dt, 2H), 7.58 (m, 3H), 7.88 (m, 2H).

reactant | 1-phenyl-1-(trimethylsilyloxy)ethylene | 10.14 mmol, 1.95 g | C1(=CC=CC=C1)C(=C)O[Si](C)(C)C | C11H16OSi
reactant | [(3-methoxyphenyl)thio]propanedioic acid | 5.07 mmol, 1.51 g | COC=1C=C(C=CC1)SC(C(=O)O)C(=O)O | C10H10O5S
product | 4-Hydroxy-3-[(3-methoxyphenyl)thio]-6-phenyl-2H-pyran-2-one | OC1=C(C(OC(=C1)C1=CC=CC=C1)=O)SC1=CC(=CC=C1)OC | C18H14O4S
